US05519021
To a 300 mL oven dried 3 necked, round bottomed flask with a stirring bar, argon inlet, addition funnel and a reflux condenser was added magnesium (turnings, 3.03 g, 125 mmol) and dry THF (75 mL). To this well stirred mixture was added 4-bromo-1-butene (12.0 mL, 118.21 mmol) at such a rate as to maintain a gentle reflux. When the addition was complete, the mixture was aged 30 min then cooled to 0° C. in an ice bath. To this well stirred solution was added a solution of 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone (5.00 g, 22.36 mmol) in THF (35 mL), dropwise over 30 min. The cooling bath was allowed to expire and the mixture was stirred 20 h at ambient temperature. The reaction was diluted with EtOAc and 10% aqueous citric acid. This mixture was stirred for 4 h. The layers were separated and the organic phase was washed with aqueous NaHCO3 and brine. Drying (MgSO4), filtration, removal of the solvent in vacuo, and chromatography on 300 g of silica gel using 15% EtOAc in hexane as eluant gave 4.80 g of (+/-) 2-(2-amino-5-chlorophenyl)-1,1,1-trifluoro-5-hexen-2-ol as a yellow solid.

reactant | magnesium | 125 mmol, 3.03 g | [Mg] | Mg
reactant | 4-bromo-1-butene | 118.21 mmol, 12.0 mL | BrCCC=C | C4H7Br
reactant | 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone | 22.36 mmol, 5.00 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O | C8H5ClF3NO
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | (+/-) 2-(2-amino-5-chlorophenyl)-1,1,1-trifluoro-5-hexen-2-ol | 4.80 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)(CCC=C)O | C12H13ClF3NO
